US07396958B2
(2-amino-4-methoxy-5-methylphenyl) (2,6-difluorophenyl)methanol
To 6.05 g of dichlorophenylborane dissolved in 40 ml of dichloromethane, at −20° C., are successively added 5.226 g of 3-methoxy-4-methylaniline dissolved in 50 ml of dichloromethane, and 13.4 ml of triethylamine dissolved in 25 ml of dichloromethane. After 30 minutes at −20° C., 5.412 g of 2,6-difluorobenzaldehyde dissolved in 60 ml of dichloromethane are introduced. After 24 hours at room temperature, the mixture is hydrolysed with water. The organic phase is dried over anhydrous sodium sulfate and concentrated. To the oil obtained, dissolved in 80 ml of diethyl ether, are added 80 ml of 2M sodium hydroxide solution and the mixture is left stirring for 18 hours. The phases are separated by settling and the organic phase is dried over anhydrous sodium sulfate and concentrated. The residue is solidified with n-pentane to give 5.069 g of the expected product.

reactant | dichlorophenylborane | 6.05 g | ClB(C1=CC=CC=C1)Cl | C6H5BCl2
reactant | 3-methoxy-4-methylaniline | 5.226 g | COC=1C=C(N)C=CC1C | C8H11NO
reactant | 2,6-difluorobenzaldehyde | 5.412 g | FC1=C(C=O)C(=CC=C1)F | C7H4F2O
reactant | sodium hydroxide | 2M, 80 ml | [OH-].[Na+]
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | diethyl ether | 80 ml | C(C)OCC | C4H10O
solvent | water | O | H2O
solvent | triethylamine | 13.4 ml | C(C)N(CC)CC | C6H15N
product | (2-amino-4-methoxy-5-methylphenyl) (2,6-difluorophenyl)methanol | 5.069 g | NC1=C(C=C(C(=C1)OC)C)C(O)C1=C(C=CC=C1F)F | C15H15F2NO2
